US07956069B2
(3aS,7aS)-1-methyl-3-[1-[1-(2-methylbenzoyl)-4-piperidyl]-4-piperidyl]-3a,4,5,6,7,7a-hexahydrobenzoimidazol-2-one
To a solution of (3aS,7aS)-1-(1,4′-bipiperidin-4-yl)-3-methyloctahydro-2H-benzimidazol-2-one. 2HCl (71 mg, 0.18 mmol) in DMF (4 mL) was added diisopropylethylamine (0.1 mL, 0.57 mmol) and 2-methylbenzoic acid (30 mg, 0.2 mmol) at room temperature, the mixture was then sonicated to dissolve the starting material and HATU (75 mg, 0.2 mmol) was then added. The reaction mixture was stirred at room temperature and the solvent was removed under reduced pressure. The mixture was dissolved in dichloromethane (60 mL), washed with 1N NaOH (5 mL) and brine (5 mL) and then concentrated in vacuo. The residue was then purified by high pH prep. LCMS to provide the title compound as a white solid (44 mg, 51%). (HCl salt) 1H NMR (400 MHz, METHANOL-D4) δ ppm 1.23-1.56 (m, 5H), 1.60 (d, J=12.89 Hz, 1H), 1.69 (d, J=11.72 Hz, 1H), 1.74-1.96 (m, 6H), 1.97-2.11 (m, 2H), 2.23 (s, 3H), 2.15-2.38 (m, 3H), 2.51-2.62 (m, 2H), 2.64 (s, 3H), 2.83 (t, J=11.91 Hz, 1H), 2.94 (t, J=10.16 Hz, 1H), 3.04 (t, J=11.72 Hz, 3H), 3.39-3.54 (m, 1H), 3.57-3.71 (m, 1H), 4.74 (d, J=12.89 Hz, 1H), 7.03-7.42 (m, 4H). MS (M+1): 439.3.

reactant | diisopropylethylamine | 0.57 mmol, 0.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-methylbenzoic acid | 0.2 mmol, 30 mg | CC1=C(C(=O)O)C=CC=C1 | C8H8O2
reactant | HATU | 0.2 mmol, 75 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
product | (3aS,7aS)-1-methyl-3-[1-[1-(2-methylbenzoyl)-4-piperidyl]-4-piperidyl]-3a,4,5,6,7,7a-hexahydrobenzoimidazol-2-one | 44 mg, 51% | CN1C(N([C@@H]2[C@@H]1CCCC2)C2CCN(CC2)C2CCN(CC2)C(C2=C(C=CC=C2)C)=O)=O | C26H38N4O2
